US05877199
1-(4-Phenylbenzyl)-4-cyanoindole
Following a procedure and using relative proportions of starting materials similar to those described in Example 65, but using 4-cyanoindole and 4-phenylbenzylchloride as starting materials, the title compound was obtained as a solid.

reactant | 4-cyanoindole | C(#N)C1=C2C=CNC2=CC=C1 | C9H6N2
reactant | 4-phenylbenzylchloride | C1(=CC=CC=C1)C1=CC=C(CCl)C=C1 | C13H11Cl
product | 1-(4-Phenylbenzyl)-4-cyanoindole | C1(=CC=CC=C1)C1=CC=C(CN2C=CC3=C(C=CC=C23)C#N)C=C1 | C22H16N2
